US08022063B2
4-Bromo-2-(2,4-dioxo-3-pyridin-4-ylmethylthiazolidin-5-ylmethyl)phenoxyacetic acid.
Prepared from 4-bromomethylpyridine and 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester according to GP13, GP14 and GP16: LC/MS (an10p8): Rt 2.1 min, m/z 451 [M+H]+.

reactant | 4-bromomethylpyridine | BrCC1=CC=NC=C1 | C6H6BrN
reactant | 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)\C=C/1\C(NC(S1)=O)=O)=O | C14H12BrNO5S
product | 4-Bromo-2-(2,4-dioxo-3-pyridin-4-ylmethylthiazolidin-5-ylmethyl)phenoxyacetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)CC1C(N(C(S1)=O)CC1=CC=NC=C1)=O | C18H15BrN2O5S
